US08222274B2
A 1.364 g portion of benzyl 5-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate was dissolved in a mixed solvent of 10 ml ethanol and 10 ml tetrahydrofuran, and 0.139 ml of hydrazine monohydrate was added, followed by stirring at room temperature for 24 hours. Then, 0.252 ml of hydrazine monohydrate was added, followed by stirring at 50° C. for 5 hours. Further, 0.252 ml of hydrazine monohydrate was added, followed by stirring at 50° C. for 20 hours. The reaction liquid was cooled to room temperature and then filtered through celite. The filtrate was concentrated under a reduced pressure, chloroform was added to the residue, and the resulting precipitate was removed by celite-filtration. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex (registered trademark), ethyl acetate) to obtain 850 mg of benzyl 5-(3-aminopropyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate as a colorless oil.

reactant | benzyl 5-[3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)propyl]-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)CCCC1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC1=CC=CC=C1 | C32H29FN2O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hydrazine monohydrate | 0.139 ml | O.NN
solvent | hydrazine monohydrate | 0.252 ml | O.NN
solvent | hydrazine monohydrate | 0.252 ml | O.NN
product | benzyl 5-(3-aminopropyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | 850 mg | NCCCC1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC1=CC=CC=C1 | C24H27FN2O2
